US08071586B2
E) (S)-4-(3-Hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
Di-tert-butyl-dicarbonate (2.56 g, 11.6 mmol) was added to a solution of (S)-1-(3-hydroxy-propyl)-3-methyl-piperazin-2-one (2.00 g, 11.6 mmol) in dichloromethane (20 ml). The solution was stirred at room temperature for 72 h. After evaporation, the residue was chromatographed (SiO2; dichloromethane/methanol/25% aq. ammonia solution 90:10:0.25) to afford the title compound (3.16 g, 100%). Colorless oil, MS (ISP)=273.3 (M+H)+.

reactant | Di-tert-butyl-dicarbonate | 11.6 mmol, 2.56 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-1-(3-hydroxy-propyl)-3-methyl-piperazin-2-one | 11.6 mmol, 2.00 g | OCCCN1C([C@@H](NCC1)C)=O | C8H16N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-4-(3-Hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 3.16 g, 100% | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)CCCO)=O)C | C13H24N2O4
